US07265120B2
To a suspension of 6-(5-amino-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (1.01 g) was added dimethyl sulfide (0.263 ml) and N-chlorosuccinimide (435 mg) under −5° C. The mixture was stirred at −5° C. for 30 minutes and at 20-25° C. for 20 hours. A solution of 28% sodium methoxide in MeOH (1.13 ml) was added to the mixture and the solution was stirred at the same temperature for an hour. After addition of water (10 ml), the organic layer was collected, dried over MgSO4, concentrated under reduced pressure and purified by column chromatography on silica gel eluting with a mixture of MeOH and EtOAc (1:99 v/v) to give 6-{5-[(dimethyl-lambda˜4˜-sulfanylidene)amino]-3-phenyl-2-pyrazinyl}-2-isopropyl-3(2H)-pyridazinone as a solid (0.80 g).

reactant | 6-(5-amino-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 1.01 g | NC=1N=C(C(=NC1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H17N5O
reactant | dimethyl sulfide | 0.263 ml | CSC | C2H6S
reactant | N-chlorosuccinimide | 435 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium methoxide | C[O-].[Na+]
solvent | MeOH | 1.13 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 6-{5-[(dimethyl-lambda˜4˜-sulfanylidene)amino]-3-phenyl-2-pyrazinyl}-2-isopropyl-3(2H)-pyridazinone | 0.80 g | CS(C)=NC=1N=C(C(=NC1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C19H21N5OS
